US07129238B2
To a suspension of (RS)-(2,6-difluoro-4-methoxy-phenyl)-hydroxy-acetic acid ethyl ester (13.06 g) and Ag2O (24.58 g) in toluene (100 ml) was added ethyl iodide (24.81 g). The mixture was heated to reflux for 2.5 h. Ethyl iodide (24.81 g) and Ag2O (12.29 g) were added and the mixture was refluxed for a further 7 h. The solid was filtered off and the filtate was concentrated to give (RS)-(2,6-difluoro-4-methoxy-phenyl)-ethoxy-acetic acid ethyl ester (14.6 g). Light yellow oil. MS 274.1 ([M]+)

reactant | (RS)-(2,6-difluoro-4-methoxy-phenyl)-hydroxy-acetic acid ethyl ester | 13.06 g | C(C)OC(C(O)C1=C(C=C(C=C1F)OC)F)=O | C11H12F2O4
reactant | ethyl iodide | 24.81 g | C(C)I | C2H5I
reactant | Ethyl iodide | 24.81 g | C(C)I | C2H5I
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (RS)-(2,6-difluoro-4-methoxy-phenyl)-ethoxy-acetic acid ethyl ester | 14.6 g | C(C)OC(C(OCC)C1=C(C=C(C=C1F)OC)F)=O | C13H16F2O4
